US04732903
STEP A: (R)α-methyl-3-phenoxy-benzyl(1R,cis)2,2-dimethyl-3-[3-oxo-3-(2,2,2-trichloroethoxy)-1-propynyl]-cyclopropane-carboxylate
Using the procedure of Step D of Example 9, 6 g of (1R,cis)2,2-dimethyl-3-[3-oxo-3-(2,2,2-trichloroethoxy)-1-propynyl]-cyclopropane-carboxylic acid and 4.1 g of 1-(R)(3-phenoxy-phenyl)-ethanol were reacted to obtain after chromatography and elution with an 8--2 mixture of cyclohexaneethyl acetate 4.38 g of (R)α-methoxy-3-phenoxy-benzyl(1R,cis)2,2-dimethyl-3-[3-oxo-3-(2,2,2-trichloroethoxy)-1-propynyl]-cyclopropane-carboxylate.

reactant | (1R,cis)2,2-dimethyl-3-[3-oxo-3-(2,2,2-trichloroethoxy)-1-propynyl]-cyclopropane-carboxylic acid | 6 g | CC1([C@@H]([C@@H]1C#CC(OCC(Cl)(Cl)Cl)=O)C(=O)O)C | C11H11Cl3O4
reactant | 1-(R)(3-phenoxy-phenyl)-ethanol | 4.1 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)[C@@H](C)O | C14H14O2
product | (R)α-methyl-3-phenoxy-benzyl(1R,cis)2,2-dimethyl-3-[3-oxo-3-(2,2,2-trichloroethoxy)-1-propynyl]-cyclopropane-carboxylate | CC1([C@@H]([C@@H]1C#CC(OCC(Cl)(Cl)Cl)=O)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C)C | C25H23Cl3O5
